* C:\Users\44736\Desktop\result\ten_nodes.asc
R1 N002 N001 10
R2 N003 N002 10
C1 N004 N003 1u
R3 N004 N010 10
R4 N001 N009 10
R5 N010 N009 10
V1 N010 N009 SINE(0 2 1k)
L1 N010 0 1m
R6 N010 0 10
R7 N009 0 10
R9 N005 N006 10
R10 N011 N010 10
V2 N011 0 10
R12 N007 N008 10
R13 N008 N011 10
C2 N005 N004 1u
L2 N006 N007 1m
.tran 0 10ms 0 0.01ms
.backanno
.end
