* C:\Users\44736\Desktop\result\nodes_131.asc
R1 N002 N001 10
R2 N003 N002 10
C1 N004 N003 1u
R3 N004 N026 10
R4 N001 N025 10
R5 N026 N025 10
V1 N026 N025 SINE(0 2 1k)
L1 N026 N032 1m
R6 N026 N032 10
R7 N025 N032 10
R8 N005 N006 10
R9 N027 N026 10
V2 N027 N032 10
R10 N007 N008 10
R11 N008 N027 10
C2 N005 N004 1u
L2 N006 N007 1m
R12 N010 N009 10
R13 N011 N010 10
C3 N012 N011 1u
R14 N012 N028 10
R15 N009 N027 10
R16 N028 N027 10
V3 N028 N027 SINE(0 2 1k)
L3 N028 N033 1m
R17 N028 N033 10
R18 N027 N033 10
R19 N013 N014 10
R20 N029 N028 10
V4 N029 N033 10
R21 N015 N016 10
R22 N016 N029 10
C4 N013 N012 1u
L4 N014 N015 1m
R23 N018 N017 10
R24 N019 N018 10
C5 N020 N019 1u
R25 N020 N030 10
R26 N017 N029 10
R27 N030 N029 10
V5 N030 N029 SINE(0 2 1k)
L5 N030 N034 1m
R28 N030 N034 10
R29 N029 N034 10
R30 N021 N022 10
R31 N031 N030 10
V6 N031 N034 10
R32 N023 N024 10
R33 N024 N031 10
C6 N021 N020 1u
L6 N022 N023 1m
R34 N036 N035 10
R35 N037 N036 10
C7 N038 N037 1u
R36 N038 N060 10
R37 N035 N059 10
R38 N060 N059 10
V7 N060 N059 SINE(0 2 1k)
L7 N060 N066 1m
R39 N060 N066 10
R40 N059 N066 10
R41 N039 N040 10
R42 N061 N060 10
V8 N061 N066 10
R43 N041 N042 10
R44 N042 N061 10
C8 N039 N038 1u
L8 N040 N041 1m
R45 N044 N043 10
R46 N045 N044 10
C9 N046 N045 1u
R47 N046 N062 10
R48 N043 N061 10
R49 N062 N061 10
V9 N062 N061 SINE(0 2 1k)
L9 N062 N067 1m
R50 N062 N067 10
R51 N061 N067 10
R52 N047 N048 10
R53 N063 N062 10
V10 N063 N067 10
R54 N049 N050 10
R55 N050 N063 10
C10 N047 N046 1u
L10 N048 N049 1m
R56 N052 N051 10
R57 N053 N052 10
C11 N054 N053 1u
R58 N054 N064 10
R59 N051 N063 10
R60 N064 N063 10
V11 N064 N063 SINE(0 2 1k)
L11 N064 N068 1m
R61 N064 N068 10
R62 N063 N068 10
R63 N055 N056 10
R64 N031 N064 10
V12 N031 N068 10
R65 N057 N058 10
R66 N058 N031 10
C12 N055 N054 1u
L12 N056 N057 1m
R67 N070 N069 10
R68 N071 N070 10
C13 N072 N071 1u
R69 N072 N093 10
R70 N069 N065 10
R71 N093 N065 10
V13 N093 N065 SINE(0 2 1k)
L13 N093 N099 1m
R72 N093 N099 10
R73 N065 N099 10
R74 N073 N074 10
R75 N094 N093 10
V14 N094 N099 10
R76 N075 N076 10
R77 N076 N094 10
C14 N073 N072 1u
L14 N074 N075 1m
R78 N078 N077 10
R79 N079 N078 10
C15 N080 N079 1u
R80 N080 N095 10
R81 N077 N094 10
R82 N095 N094 10
V15 N095 N094 SINE(0 2 1k)
L15 N095 N100 1m
R83 N095 N100 10
R84 N094 N100 10
R85 N081 N082 10
R86 N096 N095 10
V16 N096 N100 10
R87 N083 N084 10
R88 N084 N096 10
C16 N081 N080 1u
L16 N082 N083 1m
R89 N086 N085 10
R90 N087 N086 10
C17 N088 N087 1u
R91 N088 N097 10
R92 N085 N096 10
R93 N097 N096 10
V17 N097 N096 SINE(0 2 1k)
L17 N097 N101 1m
R94 N097 N101 10
R95 N096 N101 10
R96 N089 N090 10
R97 N098 N097 10
V18 N098 N101 10
R98 N091 N092 10
R99 N092 N098 10
C18 N089 N088 1u
L18 N090 N091 1m
R100 N103 N102 10
R101 N104 N103 10
C19 N105 N104 1u
R102 N105 N127 10
R103 N102 N126 10
R104 N127 N126 10
V19 N127 N126 SINE(0 2 1k)
L19 N127 0 1m
R105 N127 0 10
R106 N126 0 10
R107 N106 N107 10
R108 N128 N127 10
V20 N128 0 10
R109 N108 N109 10
R110 N109 N128 10
C20 N106 N105 1u
L20 N107 N108 1m
R111 N111 N110 10
R112 N112 N111 10
C21 N113 N112 1u
R113 N113 N129 10
R114 N110 N128 10
R115 N129 N128 10
V21 N129 N128 SINE(0 2 1k)
L21 N129 N132 1m
R116 N129 N132 10
R117 N128 N132 10
R118 N114 N115 10
R119 N130 N129 10
V22 N130 N132 10
R120 N116 N117 10
R121 N117 N130 10
C22 N114 N113 1u
L22 N115 N116 1m
R122 N119 N118 10
R123 N120 N119 10
C23 N121 N120 1u
R124 N121 N131 10
R125 N118 N130 10
R126 N131 N130 10
V23 N131 N130 SINE(0 2 1k)
L23 N131 N133 1m
R127 N131 N133 10
R128 N130 N133 10
R129 N122 N123 10
R130 N098 N131 10
V24 N098 N133 10
R131 N124 N125 10
R132 N125 N098 10
C24 N122 N121 1u
L24 N123 N124 1m
.tran 0 20ms 0 0.01ms
.backanno
.end
