* C:\Users\44736\Desktop\result\nodes_196.asc
R1 N168 N167 10
R2 N169 N168 10
C1 N170 N169 1u
R3 N170 N192 10
R4 N167 N191 10
R5 N192 N191 10
V1 N192 N191 SINE(0 2 1k)
L1 N192 N197 1m
R6 N192 N197 10
R7 N191 N197 10
R8 N171 N172 10
R9 N193 N192 10
V2 N193 N197 10
R10 N173 N174 10
R11 N174 N193 10
C2 N171 N170 1u
L2 N172 N173 1m
R12 N176 N175 10
R13 N177 N176 10
C3 N178 N177 1u
R14 N178 N194 10
R15 N175 N193 10
R16 N194 N193 10
V3 N194 N193 SINE(0 2 1k)
L3 N194 0 1m
R17 N194 0 10
R18 N193 0 10
R19 N179 N180 10
R20 N195 N194 10
V4 N195 0 10
R21 N181 N182 10
R22 N182 N195 10
C4 N179 N178 1u
L4 N180 N181 1m
R23 N184 N183 10
R24 N185 N184 10
C5 N186 N185 1u
R25 N186 N196 10
R26 N183 N195 10
R27 N196 N195 10
V5 N196 N195 SINE(0 2 1k)
L5 N196 N198 1m
R28 N196 N198 10
R29 N195 N198 10
R30 N187 N188 10
R31 N163 N196 10
V6 N163 N198 10
R32 N189 N190 10
R33 N190 N163 10
C6 N187 N186 1u
L6 N188 N189 1m
R34 N134 N131 10
R35 N135 N134 10
C7 N136 N135 1u
R36 N136 N158 10
R37 N131 N157 10
R38 N158 N157 10
V7 N158 N157 SINE(0 2 1k)
L7 N158 N164 1m
R39 N158 N164 10
R40 N157 N164 10
R41 N137 N138 10
R42 N159 N158 10
V8 N159 N164 10
R43 N139 N140 10
R44 N140 N159 10
C8 N137 N136 1u
L8 N138 N139 1m
R45 N142 N141 10
R46 N143 N142 10
C9 N144 N143 1u
R47 N144 N160 10
R48 N141 N159 10
R49 N160 N159 10
V9 N160 N159 SINE(0 2 1k)
L9 N160 N165 1m
R50 N160 N165 10
R51 N159 N165 10
R52 N145 N146 10
R53 N161 N160 10
V10 N161 N165 10
R54 N147 N148 10
R55 N148 N161 10
C10 N145 N144 1u
L10 N146 N147 1m
R56 N150 N149 10
R57 N151 N150 10
C11 N152 N151 1u
R58 N152 N162 10
R59 N149 N161 10
R60 N162 N161 10
V11 N162 N161 SINE(0 2 1k)
L11 N162 N166 1m
R61 N162 N166 10
R62 N161 N166 10
R63 N153 N154 10
R64 N163 N162 10
V12 N163 N166 10
R65 N155 N156 10
R66 N156 N163 10
C12 N153 N152 1u
L12 N154 N155 1m
R67 N102 N101 10
R68 N103 N102 10
C13 N104 N103 1u
R69 N104 N126 10
R70 N101 N125 10
R71 N126 N125 10
V13 N126 N125 SINE(0 2 1k)
L13 N126 N131 1m
R72 N126 N131 10
R73 N125 N131 10
R74 N105 N106 10
R75 N127 N126 10
V14 N127 N131 10
R76 N107 N108 10
R77 N108 N127 10
C14 N105 N104 1u
L14 N106 N107 1m
R78 N110 N109 10
R79 N111 N110 10
C15 N112 N111 1u
R80 N112 N128 10
R81 N109 N127 10
R82 N128 N127 10
V15 N128 N127 SINE(0 2 1k)
L15 N128 N132 1m
R83 N128 N132 10
R84 N127 N132 10
R85 N113 N114 10
R86 N129 N128 10
V16 N129 N132 10
R87 N115 N116 10
R88 N116 N129 10
C16 N113 N112 1u
L16 N114 N115 1m
R89 N118 N117 10
R90 N119 N118 10
C17 N120 N119 1u
R91 N120 N130 10
R92 N117 N129 10
R93 N130 N129 10
V17 N130 N129 SINE(0 2 1k)
L17 N130 N133 1m
R94 N130 N133 10
R95 N129 N133 10
R96 N121 N122 10
R97 N097 N130 10
V18 N097 N133 10
R98 N123 N124 10
R99 N124 N097 10
C18 N121 N120 1u
L18 N122 N123 1m
R100 N068 N059 10
R101 N069 N068 10
C19 N070 N069 1u
R102 N070 N092 10
R103 N059 N091 10
R104 N092 N091 10
V19 N092 N091 SINE(0 2 1k)
L19 N092 N098 1m
R105 N092 N098 10
R106 N091 N098 10
R107 N071 N072 10
R108 N093 N092 10
V20 N093 N098 10
R109 N073 N074 10
R110 N074 N093 10
C20 N071 N070 1u
L20 N072 N073 1m
R111 N076 N075 10
R112 N077 N076 10
C21 N078 N077 1u
R113 N078 N094 10
R114 N075 N093 10
R115 N094 N093 10
V21 N094 N093 SINE(0 2 1k)
L21 N094 N099 1m
R116 N094 N099 10
R117 N093 N099 10
R118 N079 N080 10
R119 N095 N094 10
V22 N095 N099 10
R120 N081 N082 10
R121 N082 N095 10
C22 N079 N078 1u
L22 N080 N081 1m
R122 N084 N083 10
R123 N085 N084 10
C23 N086 N085 1u
R124 N086 N096 10
R125 N083 N095 10
R126 N096 N095 10
V23 N096 N095 SINE(0 2 1k)
L23 N096 N100 1m
R127 N096 N100 10
R128 N095 N100 10
R129 N087 N088 10
R130 N097 N096 10
V24 N097 N100 10
R131 N089 N090 10
R132 N090 N097 10
C24 N087 N086 1u
L24 N088 N089 1m
R133 N036 N035 10
R134 N037 N036 10
C25 N038 N037 1u
R135 N038 N060 10
R136 N035 N059 10
R137 N060 N059 10
V25 N060 N059 SINE(0 2 1k)
L25 N060 N065 1m
R138 N060 N065 10
R139 N059 N065 10
R140 N039 N040 10
R141 N061 N060 10
V26 N061 N065 10
R142 N041 N042 10
R143 N042 N061 10
C26 N039 N038 1u
L26 N040 N041 1m
R144 N044 N043 10
R145 N045 N044 10
C27 N046 N045 1u
R146 N046 N062 10
R147 N043 N061 10
R148 N062 N061 10
V27 N062 N061 SINE(0 2 1k)
L27 N062 N066 1m
R149 N062 N066 10
R150 N061 N066 10
R151 N047 N048 10
R152 N063 N062 10
V28 N063 N066 10
R153 N049 N050 10
R154 N050 N063 10
C28 N047 N046 1u
L28 N048 N049 1m
R155 N052 N051 10
R156 N053 N052 10
C29 N054 N053 1u
R157 N054 N064 10
R158 N051 N063 10
R159 N064 N063 10
V29 N064 N063 SINE(0 2 1k)
L29 N064 N067 1m
R160 N064 N067 10
R161 N063 N067 10
R162 N055 N056 10
R163 N031 N064 10
V30 N031 N067 10
R164 N057 N058 10
R165 N058 N031 10
C30 N055 N054 1u
L30 N056 N057 1m
R166 N002 N001 10
R167 N003 N002 10
C31 N004 N003 1u
R168 N004 N026 10
R169 N001 N025 10
R170 N026 N025 10
V31 N026 N025 SINE(0 2 1k)
L31 N026 N032 1m
R171 N026 N032 10
R172 N025 N032 10
R173 N005 N006 10
R174 N027 N026 10
V32 N027 N032 10
R175 N007 N008 10
R176 N008 N027 10
C32 N005 N004 1u
L32 N006 N007 1m
R177 N010 N009 10
R178 N011 N010 10
C33 N012 N011 1u
R179 N012 N028 10
R180 N009 N027 10
R181 N028 N027 10
V33 N028 N027 SINE(0 2 1k)
L33 N028 N033 1m
R182 N028 N033 10
R183 N027 N033 10
R184 N013 N014 10
R185 N029 N028 10
V34 N029 N033 10
R186 N015 N016 10
R187 N016 N029 10
C34 N013 N012 1u
L34 N014 N015 1m
R188 N018 N017 10
R189 N019 N018 10
C35 N020 N019 1u
R190 N020 N030 10
R191 N017 N029 10
R192 N030 N029 10
V35 N030 N029 SINE(0 2 1k)
L35 N030 N034 1m
R193 N030 N034 10
R194 N029 N034 10
R195 N021 N022 10
R196 N031 N030 10
V36 N031 N034 10
R197 N023 N024 10
R198 N024 N031 10
C36 N021 N020 1u
L36 N022 N023 1m
.tran 0 20ms 0 0.01ms
.backanno
.end
