* C:\Users\44736\Desktop\result\nodes_31.asc
R1 N002 N001 10
R2 N003 N002 10
C1 N004 N003 1u
R3 N004 N026 10
R4 N001 N025 10
R5 N026 N025 10
V1 N026 N025 SINE(0 2 1k)
L1 N026 N032 1m
R6 N026 N032 10
R7 N025 N032 10
R8 N005 N006 10
R9 N027 N026 10
V2 N027 N032 10
R10 N007 N008 10
R11 N008 N027 10
C2 N005 N004 1u
L2 N006 N007 1m
R12 N010 N009 10
R13 N011 N010 10
C3 N012 N011 1u
R14 N012 N028 10
R15 N009 N027 10
R16 N028 N027 10
V3 N028 N027 SINE(0 2 1k)
L3 N028 0 1m
R17 N028 0 10
R18 N027 0 10
R19 N013 N014 10
R20 N029 N028 10
V4 N029 0 10
R21 N015 N016 10
R22 N016 N029 10
C4 N013 N012 1u
L4 N014 N015 1m
R23 N018 N017 10
R24 N019 N018 10
C5 N020 N019 1u
R25 N020 N030 10
R26 N017 N029 10
R27 N030 N029 10
V5 N030 N029 SINE(0 2 1k)
L5 N030 N033 1m
R28 N030 N033 10
R29 N029 N033 10
R30 N021 N022 10
R31 N031 N030 10
V6 N031 N033 10
R32 N023 N024 10
R33 N024 N031 10
C6 N021 N020 1u
L6 N022 N023 1m
.tran 0 20ms 0 0.01ms
.backanno
.end
